US04022794
Step A-2. Preparation of 2-[1-(Tetrahydro-2H-pyran-2-yloxy)cyclohexyl]acetonitrile
This compound is prepared essentially by the same method as described in Example 1, Step A-2, except that the 3-hydroxycaprylonitrile is replaced by 2-(1-hydroxycyclohexyl)acetonitrile. This method provides the title compound as a pale yellow liquid.

reactant | 3-hydroxycaprylonitrile | OC(CC#N)CCCCC | C8H15NO
reactant | 2-(1-hydroxycyclohexyl)acetonitrile | OC1(CCCCC1)CC#N | C8H13NO
product | 2-[1-(Tetrahydro-2H-pyran-2-yloxy)cyclohexyl]acetonitrile | O1C(CCCC1)OC1(CCCCC1)CC#N | C13H21NO2
